data/oMe_Silver.jsonl
{"reaction_id": "NR-137_1-CC_2-C(F)(F)F_3-CCCC(C)C_4-C(F)(F)F","name": "Maitland-Japp Reaction","level": "medium","reactants_smiles": ["C(CC)C(=O)C(C(F)(F)F)","O=CC(CCCC(C)C)"],"products_smiles": ["C1(CCCC(C)C)OC(C(F)(F)F)C(C(F)(F)F)C(=O)C1(CC)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(C(F)(F)F)C(=O)C(=C(CCCC(C)C))(CC)","rationale": "Acid catalysis increases carbonyl electrophilicity, enabling enol or enolate attack on the aldehyde to form the conjugated α,β-unsaturated system stabilized by resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(CCCC(C)C)=C(CC)C(=O)C(C(F)(F)F)C(O)(C(F)(F)F)","rationale": "The activated alkene undergoes nucleophilic addition from a hydroxyl group, favored by conjugation breaking and formation of a stabilized carbocation intermediate under acidic conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CCCC(C)C)=C(CC)C(=[OH+])C(C(F)(F)F)C(O)(C(F)(F)F)","rationale": "Protonation of the carbonyl oxygen increases electrophilicity, preparing the intermediate for subsequent intramolecular nucleophilic attack."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(CCCC(C)C)C(CC)=C(O)C(C(F)(F)F)C(C(F)(F)F)[OH+]1","rationale": "Intramolecular nucleophilic addition is favored entropically and electronically, as the nearby hydroxyl oxygen attacks the protonated carbonyl to form a cyclic oxonium ion."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(CCCC(C)C)C(CC)=C(O)C(C(F)(F)F)C(C(F)(F)F)O1","rationale": "Deprotonation of the oxonium ion restores neutrality, stabilizing the newly formed heterocyclic ring."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(CCCC(C)C)OC(C(F)(F)F)C(C(F)(F)F)C(=O)C1(CC)","rationale": "Proton transfer rearranges the oxygen protonation state, yielding the thermodynamically stable cyclic ether with a carbonyl group."}],"description": "Under acidic conditions, the carbonyl compound and aldehyde undergo condensation to form an α,β-unsaturated intermediate, which then participates in intramolecular nucleophilic addition and cyclization. Proton transfers facilitate ring closure and rearrangement to yield the stable cyclic product."}
{"reaction_id": "NR-102_1-c1ccc(C#N)cc1_2-S(=O)(=O)c1ccccc1_3-c1ccc2ccccc2c1","level": "medium","name": "Hantzsch Thiazole Synthesis","reactants_smiles": ["C(c1ccc(C#N)cc1)(=S)N","C(c1ccc2ccccc2c1)(=O)C(S(=O)(=O)c1ccccc1)Cl"],"products_smiles": ["c1ccc(C#N)cc1c1nc(c1ccc2ccccc2c1)c(S(=O)(=O)c1ccccc1)s1"],"conditions": "","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(c1ccc(C#N)cc1)(=[NH2+])SC(S(=O)(=O)c1ccccc1)C(c1ccc2ccccc2c1)(=O)","step_weight": 0,"rationale": "The thioamide nitrogen is nucleophilic due to resonance with the C=S group, attacking the electrophilic α-carbon of the haloketone, where the carbon is activated by the adjacent electron-withdrawing carbonyl."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(C#N)cc1)(=N)SC(S(=O)(=O)c1ccccc1)C(c1ccc2ccccc2c1)(=[OH+])","step_weight": 0,"rationale": "Proton transfer neutralizes the nitrogen and protonates the carbonyl oxygen, increasing electrophilicity for subsequent nucleophilic attack and stabilizing the intermediate."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(C#N)cc1C1=[NH+]C(c1ccc2ccccc2c1)(O)C(S(=O)(=O)c1ccccc1)S1","step_weight": 0,"rationale": "The deprotonated nitrogen attacks the protonated carbonyl carbon intramolecularly, favored by proximity and the electrophilicity enhanced by protonation, initiating ring closure."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(C#N)cc1C1=NC(c1ccc2ccccc2c1)([OH2+])C(S(=O)(=O)c1ccccc1)S1","step_weight": 0,"rationale": "Proton transfer from the hydroxyl group to a leaving group site prepares the intermediate for elimination, stabilizing the developing positive charge on oxygen."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc(C#N)cc1c1nc(c1ccc2ccccc2c1)c(S(=O)(=O)c1ccccc1)s1","step_weight": 0,"rationale": "Elimination of water occurs, driven by formation of the aromatic thiazole ring, which is thermodynamically favored due to aromatic stabilization."}],"description": "The reaction proceeds via nucleophilic substitution of the thioamide nitrogen onto the α-haloketone, followed by proton transfers and cyclization to form the thiazole ring. Acid-base steps facilitate intermediate stability, and elimination yields the aromatic heterocycle."}
